data/mechanism_extracts/JOrganometChem/10.1016_j.jorganchem.2017.02.002.json
{"doi": "10.1016_j.jorganchem.2017.02.002", "journal": "JOrganometChem", "is_review": false, "rxn_class_summary": "Electrochemical hydrogenation and reductive coupling of alkenes and alkynes catalyzed by a B12 model complex (heptamethyl cobyrinate) in the presence of TFA", "mechanism_family": ["mediator_cathodic", "electrocatalysis_inner_sphere", "radical_cathodic"], "electrochemical_role": "Cathodic reduction of Co(II)/Co(III) B12 model complex to Co(I), which is protonated by TFA to form a Co(III)-H species that delivers a hydrogen radical to the alkene/alkyne substrate", "key_intermediates": [{"name": "Co(I) species of B12 model complex (heptamethyl cobyrinate)", "smiles": null, "role": "reactive"}, {"name": "Co(III)-H hydride intermediate with H-radical character", "smiles": null, "role": "reactive"}, {"name": "alpha-carbon-centered benzylic radical (e.g. PhC•(CH3)R)", "smiles": null, "role": "reactive"}, {"name": "Co(II) species", "smiles": null, "role": "transient"}, {"name": "benzylic carbanion (for R = electron-withdrawing group such as CO2Et or Br)", "smiles": null, "role": "reactive"}, {"name": "carbene from alpha-bromo benzylic carbanion after Br- elimination", "smiles": null, "role": "transient"}], "electron_flow": "Cathode reduces the Co(II/III) B12 model to Co(I), which is protonated by TFA to give a Co(III)-H with H• character; H• transfers to the beta-position of the alkene/alkyne to generate an alpha-benzylic radical that then dimerizes, disproportionates, abstracts H•, or (for electron-poor substrates) is further reduced to a carbanion that is protonated.", "rate_determining_step": null, "probe_reagents": [{"name": "DMPO (5,5-dimethyl-1-pyrroline-N-oxide)", "smiles": "CC1(C)CCC=[N+]1[O-]", "purpose": "radical_trap", "observation": "ESR detection of DMPO-H adduct (g=2.009, AN=14.9 G, AH=19.7 G) and DMPO-C carbon-centered radical adduct (g=2.008, AN=15.0 G, AH=21.4 G) during electrolysis of styrene"}, {"name": "TFA-d1 (deuterated trifluoroacetic acid)", "smiles": "OC(=O)C(F)(F)F", "purpose": "isotope_label", "observation": "DMPO-H ESR signal disappeared when TFA-d1 was used in place of TFA, confirming the trapped H originates from the acid via the Co-H intermediate"}, {"name": "control without acid", "smiles": null, "purpose": "other", "observation": "No reduced product formed in the absence of TFA for all alkene/alkyne substrates, confirming Co-H requires protonation"}], "evidence_types_used": ["EPR", "H/D_labeling", "intermediate_trap_other", "cyclic_voltammetry", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "For styrene derivatives with electron-withdrawing alpha-substituents (R = CO2Et, Br), a second cathodic reduction of the benzylic radical to a carbanion is invoked; with R = Br, elimination of Br- gives a transient carbene that couples with another benzylic carbanion to deliver E/Z 2,3-diphenylbutene. Three competing pathways for ethylbenzene formation from the benzylic radical are proposed: disproportionation, H• abstraction, and reaction with a second Co-H. Phenylacetylene is proposed to be reduced first to styrene, then further to 2,3-diphenylbutanes (racemic/meso) and ethylbenzene at -1.2 V vs Ag/AgCl."}
